US07842696B2
DIPEA (78 mg, 0.1 mL, 0.6 mmol) was added to a stirred solution of pyrazine-2-carboxylic acid (25 mg, 0.2 mmol) in DMF (0.5 mL). HOBT (32 mg, 0.24 mmol) and EDCI (46 mg, 0.24 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt (104 mg, 0.24 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 28 mg (32.9% yield) of pyrazine-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 94.8%. 1H NMR (DMSO-d6): δ 9.2 (m, 1H), 8.9 (d, 1H), 8.9-8.8 (bt, 1H), 8.8-8.7 (m, 1H), 7.9-7.8 (m, 1H), 7.8-7.7 (m, 1H), 7.7-7.6 (m, 1H), 7.6-7.5 (m, 1H), 4.3-4.1 (m, 2H), 3.8-3.5 (m, 4H), 3.5-3.4 (m, 2H), 3.2-3.0 (m, 2H).

reactant | DIPEA | 0.6 mmol, 0.1 mL, 78 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrazine-2-carboxylic acid | 0.2 mmol, 25 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | HOBT | 0.24 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.24 mmol, 46 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt | 0.24 mmol, 104 mg | FC(C(=O)O)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | pyrazine-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 28 mg, 32.9% yield | O=C(CNC(=O)C1=NC=CN=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C19H18F3N5O3
